US05306723
5-[2-(4-Hydroxy-4-phenylpiperidino) propionyl]-1-(p-toluenesulfonyl)indole
5-(2-Bromopropionyl)-1-(p-toluenesulfonyl)indole (1.67 g, 3.37 mmol, 83% purity) was dissolved in hot ethanol (100 ml) and 4-hydroxy-4-phenylpiperidine (0.6 g, 3.39 mmol) and triethylamine (0.94 ml, 6.74 mmol) were added. The mixture was refluxed overnight. The reaction was cooled and concentrated directly onto silica gel and flash chromatographed. Elution with 1:3 ethyl acetate:hexane removed 0.1 g of non-brominated ketone. Continued elution with 1:1 ethyl acetate hexane gave 1.47 g, 87% of the title product as a glassy orange solid. NMR 8.34 (s, 1H), 8.09 (d, J=9 Hz, 1H), 8.00 (d, J=8.5 Hz, 1H), 7.77 (d, J=8.5 Hz, 2H), 7.61 (d, J=3.5 Hz, 1H), 7.45 (d, J=9 Hz, 2H), 7.33-7.29 (m, 2H), 7.24-7.21 (m, 4H), 6.72 (d, J=3.5 Hz, 1H), 4.18 (q, J=7 Hz, 1H), 2.88-2.84 (m, 2H), 2.73-2.62 (m, 2H), 2.32 (s, 3H), 2.18-2.06 (m, 1H), 2.05-1.97 (m, 1H), 1.77-1.66 (m, 1H), 1.59-1.54 (m, 1H), 1.31 (d, J=7 Hz, 3H). IR 1679, 1605, 1375, 1289, 1260, 1169, 1126, 994. FAB HRMS calcd for C29H31N2O4S (MH+): 503.2006. Observed m/e: 503.2023.

reactant | 5-(2-Bromopropionyl)-1-(p-toluenesulfonyl)indole | 3.37 mmol, 1.67 g | BrC(C(=O)C=1C=C2C=CN(C2=CC1)S(=O)(=O)C1=CC=C(C=C1)C)C | C18H16BrNO3S
reactant | 4-hydroxy-4-phenylpiperidine | 3.39 mmol, 0.6 g | OC1(CCNCC1)C1=CC=CC=C1 | C11H15NO
reactant | triethylamine | 6.74 mmol, 0.94 ml | C(C)N(CC)CC | C6H15N
solvent | ethanol | 100 ml | C(C)O | C2H6O
product | 5-[2-(4-Hydroxy-4-phenylpiperidino) propionyl]-1-(p-toluenesulfonyl)indole | 1.47 g, 87% | OC1(CCN(CC1)C(C(=O)C=1C=C2C=CN(C2=CC1)S(=O)(=O)C1=CC=C(C=C1)C)C)C1=CC=CC=C1 | C29H30N2O4S
